US08486716B2
The heat-denatured BSA solution prepared in the above (1) (50 μl) was mixed with the sample prepared in (3) followed by addition of a MES-HCl buffer (pH 5.0) and ultrapure water to obtain a total volume of 250 μl (final concentration of MES: 50 μM) and pH was adjusted to prepare a mixed solution. A comparative mixed solution was prepared without the heat-denatured BSA solution.

reactant | MES HCl | pH 5.0 | C1COCCN1CCS(=O)(=O)O.Cl
solvent | water | O | H2O
product | MES | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
